US07125896B2
b) [2-(2-Bromophenoxy)ethoxy](tert-butyl)dimethylsilane
2-Bromophenol (1.88 g), anhydrous potassium carbonate (1.51 g), (2-bromoethoxy)-(tert-butyl)dimethylsilane (2.61 g) and dimethylformamide (30 ml) were heated for 20 h at 90° C., cooled, poured into water (100 ml), extracted with ethyl acetate, the organic phase washed with water, brine, dried (MgSO4) and evaporated to dryness. The residue was purified by column chromatography eluting with 1:9 ether/isohexane to give the product as a crystalline solid (1.68 g).

reactant | 2-Bromophenol | 1.88 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | potassium carbonate | 1.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromoethoxy)-(tert-butyl)dimethylsilane | 2.61 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | [2-(2-Bromophenoxy)ethoxy](tert-butyl)dimethylsilane | 1.68 g | BrC1=C(OCCO[Si](C)(C)C(C)(C)C)C=CC=C1 | C14H23BrO2Si
